US05304614
1. 1,2-bis(4,7-Dimethylindenyl)butane
52 ml (83.2 mmol) of a 1.6 M solution of butyllithium in hexane were added dropwise to 11.8 g (92 mmol) of 4,7-dimethylindene in 200 ml of tetrahydrofuran at room temperature under an Ar atmosphere, and the mixture was stirred at 60° C. for 1 hour. It was cooled to -78° C., 5 ml (40 mmol) of 1,2-dibromobutane were added, and stirring was continued overnight at room temperature. The reaction mixture was poured onto 2 N aqueous HCl and the organic phase was separated off, washed with saturated aqueous NaHCO3 solution and NaCl solution in succession and dried (MgSO4). The oil which remained after the solvent had been stripped off under reduced pressure was chromatographed on 350 g of silica gel (hexane). After drying under an oilpump vacuum, 1.4 g (10%) of product were obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 4,7-dimethylindene | 92 mmol, 11.8 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | 1,2-dibromobutane | 40 mmol, 5 ml | BrCC(CC)Br | C4H8Br2
reactant | HCl | 2 N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1,2-bis(4,7-Dimethylindenyl)butane | 1.4 g, 10% | CC1=C2C=CC(C2=C(C=C1)C)CC(CC)C1C=CC2=C(C=CC(=C12)C)C | C26H30
